US04362736
In a mixture of 20 ml of ethanol, 30 ml of chloroform, and 10 ml of methanol was dissolved 1.0 g of N-cyano-3-(2-methylguanidinothiazol-4-ylmethylthio)propionamidine and after cooling the solution to 0°-5° C. and passing therethrough a hydrogen chloride gas for one hour, the solvents were distilled off under reduced pressure. Then, the residue formed was recrystallized from ethanol to provide 1.2 g of N-carbamoyl-3-(2-methylguanidinothiazol-4-ylmethylthio)-propionamidine.di-hydrochloride showing a melting point of 180°-182° C.

reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | 10 ml | CO | CH4O
reactant | N-cyano-3-(2-methylguanidinothiazol-4-ylmethylthio)propionamidine | 1.0 g | C(#N)NC(CCSC(C=1N=CSC1)NC(=NC)N)=N | C10H15N7S2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-carbamoyl-3-(2-methylguanidinothiazol-4-ylmethylthio)-propionamidine | 1.2 g | C(N)(=O)NC(CCSC(C=1N=CSC1)NC(=NC)N)=N | C10H17N7OS2
